US06133279
Under a nitrogen atmosphere, a solution of 0.19 g of 4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carboxylic acid in 1 ml of THF was cooled to 0° C. and 1 ml of tetra-n-butylammonium fluoride (1.0 mmol/ml THF solution) was added dropwise to this solution and the mixture was stirred for 1 hour. After the reaction was quenched by adding a saturated aqueous ammonium chloride solution, the mixture was extracted with water and diethyl ether, and the combined organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated to give 0.14 g of 4,6-di-t-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran-2-carboxylic acid as a colorless solid (yield 91%).

reactant | 4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carboxylic acid | 0.19 g | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C(=O)O)C)C(C)(C)C)O[Si](C)(C)C | C21H34O4Si
reactant | tetra-n-butylammonium fluoride | 1.0 mmol/ml, 1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 4,6-di-t-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran-2-carboxylic acid | 0.14 g, yield 91% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C(=O)O)C)C(C)(C)C)O | C18H26O4
